US04440927
To a solution of methyl 3-O-benzyl-2-deoxy-α-D-ribo-hexopyranoside (6.0 g, 23.41 mmoles) in dry pyridine (65 mL) was added triphenylmethyl chloride (6.85 g, 24.58 mmoles). The resulting solution was stirred at room temperature under nitrogen for 48 hours. p-Toluenesulfonyl chloride (8.93 g, 46.82 mmoles) was added to the reaction mixture and stirring at room temperature under nitrogen was continued for 24 hours. The reaction was cooled in an ice bath and water (10 mL) was added dropwise. The ice bath was removed and the reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was then dissolved in ether and the solution extracted with water four times. The ether phase containing the product was placed in a 3 L one-neck flask together with saturated sodium bicarbonate solution (50 mL) and water (100 mL). The ether and the pyridine/water azetrope were removed in vacuo. The remaining gum was dissolved in ether, dried (MgSO4), filtered and evaporated in vacuo to leave 15.0 g of crude methyl 3-O-benzyl-4-O-tosyl-6-O-trityl-2-deoxy-α-D-ribo-hexopyranoside. This material was dissolved in methylene chloride (200 mL). Trifluoroacetic acid (70% TFA in water, 9.6 mL) was added with vigorous stirring at room temperature. The vigorous stirring was continued for five minutes, then the reaction was quenched by the addition of saturated aqueous sodium carbonate solution (40 mL) with vigorous stirring. The reaction was now colorless. The methylene chloride layer was separated and the aqueous layer extracted with methylene chloride. The combined methylene chloride extracts were dried (MgSO4), filtered and evaporated in vacuo to give the crude product. This product was chromatographed on 650 g of silica gel (EM Reag. 70-230 mesh) eluting with 3 L of methylene chloride to remove the triphenyl carbinol, followed by elution with 10% acetone in methylene chloride. Collection of fractions was begun when the faintly-visible opaque band of product neared the bottom of the column. The fractions containing the product were combined and the solvent evaporated in vacuo to leave 7.4 g (74.8% for the three steps) of product, 6, mp 94°-97° C.

reactant | methyl 3-O-benzyl-2-deoxy-α-D-ribo-hexopyranoside | 23.41 mmoles, 6.0 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H]([C@H]1O)CO | C14H20O5
reactant | triphenylmethyl chloride | 24.58 mmoles, 6.85 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | p-Toluenesulfonyl chloride | 46.82 mmoles, 8.93 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 10 mL | O | H2O
solvent | pyridine | 65 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-O-benzyl-4-O-tosyl-6-O-trityl-2-deoxy-α-D-ribo-hexopyranoside | 15.0 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H]([C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H40O7S
